US07625908B2
2-Hydroxy-N-methyl-N-{(2R)-2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}acetamide
The procedure described in Example 3 was repeated using 2-(chloromethyl)pyridine and 2-hydroxy-N-[(2R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)propyl]-N-methylacetamide to give the title compound as a light yellow solid in 17% yield; NMR spectrum (DMSO-d6 373K) 1.43 (d, 3H), 2.29 (s, 3H), 2.97 (s, 3H), 3.58 (m, 1H), 4.08 (m, 3H), 5.11 (m, 1H), 5.19 (s, 2H), 7.01 (d, 1H), 7.21 (d, 1H), 7.32 (m, 2H), 7.57 (m, 3H), 7.67 (t, 1H), 8.83 (td, 1H), 8.41 (s, 1H), 8.57 (d, 1H), 9.81 (s, 1H); Mass spectrum MH+ 488.

reactant | 2-(chloromethyl)pyridine | ClCC1=NC=CC=C1 | C6H6ClN
reactant | 2-hydroxy-N-[(2R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)propyl]-N-methylacetamide | OCC(=O)N(C)C[C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C | C21H24N4O4
product | 2-Hydroxy-N-methyl-N-{(2R)-2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}acetamide | 17% yield | OCC(=O)N(C[C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)C | C27H29N5O4
